US06110933
To an ice-cooled solution of tridecanal (1.0 g), methyl 3-aminopropionate hydrochloride (704 mg), and sodium acetate (414 mg) in methanol (20 ml) was added sodium cyanoborohydride (317 mg). After stirring for 45 minutes, the mixture was quenched with water (20 ml), concentrated, and extracted with ethyl acetate (40 ml). The organic phase was washed with brine, dried, and concentrated under reduced pressure. The residue was purified on silica gel, eluting with 5% methanol in chloroform to give methyl 3-tridecylaminopropionate (0.78 g).

reactant | tridecanal | 1.0 g | C(CCCCCCCCCCCC)=O | C13H26O
reactant | methyl 3-aminopropionate hydrochloride | 704 mg | Cl.NCCC(=O)OC
reactant | sodium acetate | 414 mg | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 317 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | methyl 3-tridecylaminopropionate | 0.78 g | C(CCCCCCCCCCCC)NCCC(=O)OC | C17H35NO2
